US04221912
By substituting 4-chloro-L-proline tert-butyl ester [prepared from 4-chloro-L-proline by the procedure described in J. Am. Chem. Soc., 82, 3359 (1960) for L-proline] for the L-proline tert-butyl ester and 2-acetylthioacetyl chloride for the 3-acetylthio-2-methylpropanoyl chloride in the procedure of Example 1 and then submitting the product to the procedure of Example 2, 4,5-dihydro-4-chloro-1-(2-mercaptoacetyl)-1H-pyrrole-2-carboxylic acid is obtained.

reactant | 4-chloro-L-proline tert-butyl ester | C(C)(C)(C)OC([C@H]1NCC(C1)Cl)=O | C9H16ClNO2
reactant | 4-chloro-L-proline | ClC1C[C@H](NC1)C(=O)O | C5H8ClNO2
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | L-proline tert-butyl ester | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
reactant | 2-acetylthioacetyl chloride | C(C)(=O)CC(=S)Cl | C4H5ClOS
reactant | 3-acetylthio-2-methylpropanoyl chloride | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
product | 4,5-dihydro-4-chloro-1-(2-mercaptoacetyl)-1H-pyrrole-2-carboxylic acid | ClC1C=C(N(C1)C(CS)=O)C(=O)O | C7H8ClNO3S
